US09278915B2
Intermediate 146: Ethyl 3-(4-hydroxyphenyl)-3-phenylpropanoate
A 500 mL par shaker charged with ethyl (2Z)-3-(4-hydroxyphenyl)-3-phenylprop-2-enoate (1 g, 3.7 mmol) in Ethanol/Ethyl acetate was degasified with nitrogen for 2 min. Added 10% of Pd/C (0.4 g, 10%) and applied 50 psi of H2 pressure for 3 h. Reaction mixture was filtered through celite pad and washed the pad with excess Ethanol. Organic phase was dried over anhydrous Na2SO4 and concentrated to afford oil as product. (0.6 g, Yield: 60.1%); 1H NMR (300 MHz, DMSO-d6): δ 9.21 (s, 1H), 7.07-7.29 (m, 7H), 6.63-6.66 (d, 2H), 4.29-4.34 (t, 1H), 3.89-3.96 (q, 2H), 3.02-3.03 (d, 2H), 0.99-1.04 (t, 3H)

reactant | ethyl (2Z)-3-(4-hydroxyphenyl)-3-phenylprop-2-enoate | 3.7 mmol, 1 g | OC1=CC=C(C=C1)\C(=C/C(=O)OCC)\C1=CC=CC=C1 | C17H16O3
solvent | Ethanol Ethyl acetate | C(C)O.C(C)(=O)OCC
catalyst | Pd/C | 0.4 g | [Pd] | Pd
product | Ethyl 3-(4-hydroxyphenyl)-3-phenylpropanoate | Yield: 60.1% | OC1=CC=C(C=C1)C(CC(=O)OCC)C1=CC=CC=C1 | C17H18O3
